US20010027196A1
2-Amino-4-butoxy-6-furan-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile, butanol and DBU in DME. EI-MS m/e (%): 258 (M+, 20), 202 ([M—C4H8]+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)(=O)C | C10H8N4O3S
reactant | butanol | C(CCC)O | C4H10O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-butoxy-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)OCCCC)C#N)C=1OC=CC1 | C13H14N4O2
